US08076374B2
A solution of 3-{4-[1-allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester (0.0279 g, 0.0506 mmol) in THF (1.0 mL) is treated with 1N LiOH (1.0 mL) and stirred overnight at room temperature. The reaction mixture is acidified with 1N HCl (2.2 mL) and extracted with EtOAc (3×10 mL). Combined extracts are dried over MgSO4, filtered, and concentrated to provide 3-{4-[1-allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid (0.0189 g, 69%) as a white solid. MS (ES): 538.3 [M+H]+.

reactant | 3-{4-[1-allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester | 0.0506 mmol, 0.0279 g | COC(CCNC(C1=CC=C(C=C1)C(CC=C)(COC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)CC=C)=O)=O | C32H32F3NO4
reactant | LiOH | 1N, 1.0 mL | [Li+].[OH-]
reactant | HCl | 1N, 2.2 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 3-{4-[1-allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid | 0.0189 g, 69% | C(C=C)C(CC=C)(COC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1 | C31H30F3NO4
